US07456200B2
3-(5-Chloromethyl-[1,2,4]oxadiazol-3-yl)-benzonitrile (1.2 g, 87%, light brown solid):
3-cyano-N-hydroxy-benzamidine (1.0 g, 6.2 mmol), triethylamine (1.5 ml, 10.6 mmol) and chloroacetyl chloride (0.74 ml, 9.3 mmol) in dichloromethane (12 ml). Purification was performed by decolorizing with silica gel. 1H NMR (CDCl3), d (ppm): 8.40 (s, 1H), 8.32 (d, 1H), 7.82 (d, 1H), 7.64 (t, 1H), 4.77 (s, 2H).

reactant | 3-cyano-N-hydroxy-benzamidine | 6.2 mmol, 1.0 g | C(#N)C=1C=C(C(=N)NO)C=CC1 | C8H7N3O
reactant | triethylamine | 10.6 mmol, 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 9.3 mmol, 0.74 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | 3-(5-Chloromethyl-[1,2,4]oxadiazol-3-yl)-benzonitrile | ClCC1=NC(=NO1)C=1C=C(C#N)C=CC1 | C10H6ClN3O
